*==========================================================================
* Copyright 2026 IHP PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*    https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
* SPDX-License-Identifier: Apache-2.0
*==========================================================================
* Two caps declared against the three-cap hierarchical layout, run in deep mode.
*
* This is chain_missing's perturbation applied to cap_cmomf_hier.gds: a device
* present in the layout and absent from the schematic. The flat case catches it
* on the comparison. This one does NOT, and that is the finding.
*
* In deep mode every cap here sits in a sub-cell with no net crossing that
* cell's boundary, and the layout netlist comes out empty. compare is then left
* with no pair to compare and returns true, so the run reports a match having
* verified nothing. Extraction is not what fails: the .lvsdb still carries the
* device abstract with its terminal geometry, identical to the flat run's, and
* no marker is ever rejected.
*
* Expected to PASS, which is the hole rather than the behaviour anyone wants.
* It is not specific to cap_cmomf: cap_cmomi does the same on the same
* construction, and it was first recorded for that device in
* https://github.com/IHP-GmbH/ihp-sg13cmos5l/issues/91. ihp-sg13cmos5l answers
* the vacuous half of it in its own sg13cmos5l.lvs, which counts the devices on
* both sides and refuses to call an empty layout netlist a match; this PDK has
* no such guard, so the run here is green. The extraction hole itself is open in
* both.
*
* Read it together with the wired case, which is the same hierarchy with one
* Metal5 route in the top cell and does compare for real.
*
* The layout is the unit testcase's, referenced across rather than copied, so the
* flat and deep runs cannot drift apart. That unit case runs the same layout in
* flat mode and must pass.
.SUBCKT cap_cmomf_hier
C1 P1 M1 cap_cmomf w=5e-06 l=5e-06 mmin=1 mmax=5
C2 P2 M2 cap_cmomf w=5e-06 l=5e-06 mmin=1 mmax=5
.ENDS cap_cmomf_hier
